US04140793
By a procedure analogous to Example 1, 3-methylhexan-2,5-dione (J. Amer. Chem. Soc., 1929, 51, 3514) is reacted with glycine methyl ester to give methyl(2,3,5-trimethyl-1H-pyrrol-1-yl)acetate.

reactant | 3-methylhexan-2,5-dione | CC(C(C)=O)CC(C)=O | C7H12O2
reactant | glycine methyl ester | COC(CN)=O | C3H7NO2
product | methyl(2,3,5-trimethyl-1H-pyrrol-1-yl)acetate | COC(CN1C(=C(C=C1C)C)C)=O | C10H15NO2
